US04093742
N-methyl-N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]carbamyl chloride
To a cold (10°) stirred mixture of 137 g (0.50 mole) 4-(hexafluoro-2-hydroxy-2-propyl)-N-methyl aniline in 500 ml Et2O and 168 g (2.0 mole) NaHCO3 in 500 ml H2O add dropwise 500 g (0.6 mole) 12% phosgene in benzene over 1 hour. Add 500 ml Et2O, separate the organic phase, dry, concentrate and wash the residue with hexane to give 167 g white solid; m.p. 152°-154°.

reactant | 4-(hexafluoro-2-hydroxy-2-propyl)-N-methyl aniline | 0.50 mole, 137 g | FC(C(C(F)(F)F)(O)C1=CC=C(NC)C=C1)(F)F | C10H9F6NO
reactant | NaHCO3 | 2.0 mole, 168 g | C(=O)(O)[O-].[Na+]
reactant | phosgene | 0.6 mole, 500 g | C(=O)(Cl)Cl | CCl2O
solvent | Et2O | 500 ml | CCOCC | C4H10O
solvent | H2O | 500 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | Et2O | 500 ml | CCOCC | C4H10O
product | N-methyl-N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]carbamyl chloride | 167 g | CN(C(=O)Cl)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C11H8ClF6NO2
